US07294610B2
A one-liter flask fitted with a thermocouple, addition funnel, heating mantle, reflux condenser and overhead stirrer was charged with C4F9SO2NH(C3H7) (120.0 g; 0.352 mole), and sodium carbonate (39.0 g). The mixture was heated to 93° C. and ethyl bromoacetate (62.0 g; 0.371 mole) was slowly added over a period of 4 hours, and then the ensuing mixture was allowed to stir overnight at 93° C. To this mixture was added water (120.0 mL) and the temperature was 56° C., at which point sulfuric acid (23.8 g; concentrated) at a rate to keep the temperature below 100° C. Two phases formed and the bottom layer was recovered and washed with water (150 mL). This crude material was distilled (95-121° C.; 4.0 mm Hg) to yield C4F9SO2N(C3H7)CH2CO2C2H5 (132.0 g). A one-liter flask fitted with a thermocouple, addition funnel, heating mantle, reflux condenser and overhead stirrer was charged with C4F9SO2N(C3H7)CH2CO2C2H5 (116.0 g; 0.27 mole) KOH (20.0 g; 0.303 mole) water (60 mL) and isopropanol (60.0 g). The mixture was heated at reflux for 2 hours, and a Dean-Stark trap was added. As isopropanol was removed from the trap, an equivalent amount of water was added to the reaction mixture. When the reaction mixture reached 101° C. water (25 mL) was added and the mixture was cooled to 56° C.; upon addition of sulfuric acid (31.0 g; concentrated) the temperature increased to 78° C. and two phases appeared. The bottom phase was separated and distilled (136-142° C.; 4.0-5.4 mm Hg) to yield a white solid, C4F9SO2N(C3H7)CH2CO2H (71.0 g).

reactant | C4F9SO2N(C3H7)CH2CO2C2H5 | 0.27 mole, 116.0 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N(CCC)CC(=O)OCC | C11H14F9NO4S
reactant | KOH | 0.303 mole, 20.0 g | [OH-].[K+]
reactant | water | 60 mL | O | H2O
solvent | isopropanol | 60.0 g | C(C)(C)O | C3H8O
product | C4F9SO2N(C3H7)CH2CO2H | 71.0 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N(CCC)CC(=O)O | C9H10F9NO4S
